US04306097
2-Benzyloxy-4-(1,1-dimethylheptyl)benzaldehyde
2-(3-benzyloxy-4-bromophenyl)-2-methyloctane (100 g., 0.257 mole) in tetrahydrofuran (500 ml.) was slowly added to 70-80 mesh magnesium (12.3 g., 0.514 mole) at such a rate that reflux was maintained. Upon completion of addition, the reaction mixture was stirred until it cooled to room temperature. It was then further cooled to 0° C. Dimethylformamide (29.8 ml., 0.385 mole) was added dropwise to the reaction mixture over a 25 minute period (reaction temperature <10° C.). The reaction mixture was then allowed to warm and was stirred for 40 minutes at room temperature. The reaction mixture was quenched by addition to a saturated aqueous solution of cold ammonium chloride (1800 ml.) and the product extracted with ether (one liter). The ether extract was washed twice with saturated sodium chloride (1500 ml.), dried over magnesium sulfate and evaporated to a quantitative yield of the title compound as an oil.

reactant | 2-(3-benzyloxy-4-bromophenyl)-2-methyloctane | 0.257 mole, 100 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1Br)C(C)(CCCCCC)C | C22H29BrO
reactant | magnesium | 0.514 mole, 12.3 g | [Mg] | Mg
reactant | Dimethylformamide | 0.385 mole, 29.8 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2-Benzyloxy-4-(1,1-dimethylheptyl)benzaldehyde | quantitative yield | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1)C(CCCCCC)(C)C | C23H30O2
